*****************************************************************
.SUBCKT BAS70-04 1 2 3
D1 1 3 BAS70
D2 3 2 BAS70
.MODEL BAS70 D(IS=3N N=1.06 RS=29 XTI=1.8 EG=.68 
+ CJO=1.55P M=.29 VJ=.36 FC=.5 BV=70 IBV=100n TT=25P)
.ENDS

* ISR=2.5n NR=1k IKF=5m
* for 27C reverse current simulation use: GMIN=.5e-9
